US07456164B2
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (10.83 g, 34.05 mmol) and triethylamine (10.31 g, 102.16 mmol) in dry dichloromethane at 0° C. was added dropwise a solution of di-tert-butyldicarbonate (9.65 g, 44.27 mmol) in dry dichloromethane. Stirring was continued for another hour at 0° C. and then overnight at room temperature. The reaction mixture was then diluted with dichloromethane, washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure to provide a crude product. The crude product was purified by column chromatography on silica gel (EtOAc-MeOH-Et3N) to give methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}carbamic acid tert-butyl ester (9.80 g, 69% yield). 1H NMR (400 MHz, CDCl3) δ 1.37 (s, 9H); 1.75-1.88 (m, 6H); 1.96-2.07 (m, 4H); 2.48-2.55 (m, 4H); 2.61 (t, 2H); 3.28 (d, 2H); 3.51-3.59 (m, 2H); 3.76-3.80 (m, 2H); 4.01 (t, 2H); 4.15 (brm, 1H); 6.89 (d, 2H); 7.16 (d, 2H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 34.05 mmol, 10.83 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 102.16 mmol, 10.31 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 44.27 mmol, 9.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}carbamic acid tert-butyl ester | 9.80 g, 69% yield | C(C)(C)(C)OC(N(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)C)=O | C25H40N2O4
